US04908386
2-[3-Fluoro-4-(phenylmethoxy)phenyl]oxirane
Sodium borohydride (1.25 g) was added in portions to a stirred solution of 2-bromo-1-[3-fluoro-4-(phenylmethoxy)phenyl]ethanone (16.6 g) in dioxan (100 ml) and methanol (100 ml) at 0°. After 0.5 h a solution of sodium hydroxide (4.0 g) in water (20 ml) was added and the mixture stirred for a further 1 h at 0°. Water was added and the mixture extracted with EA. The extracts were dried and evaporated to give the title compound as a colourless oil (12.6 g) which partially solidified on standing, t.l.c. (PE-EA 6:4) Rf 0.40.

reactant | Sodium borohydride | 1.25 g | [BH4-].[Na+]
reactant | 2-bromo-1-[3-fluoro-4-(phenylmethoxy)phenyl]ethanone | 16.6 g | BrCC(=O)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C15H12BrFO2
reactant | sodium hydroxide | 4.0 g | [OH-].[Na+]
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 2-[3-Fluoro-4-(phenylmethoxy)phenyl]oxirane | 12.6 g | FC=1C=C(C=CC1OCC1=CC=CC=C1)C1OC1 | C15H13FO2
